US07005440B1
[3-(2-Methoxy-ethoxymethoxy)-phenylethynyl]-trimethyl silane
3-(2-Methoxy-ethoxymethoxy)-phenyliodide (12.1 g, 39 mmol, 96) and tetrakis(triphenylphosphine)palladium (1.2 g, 1.0 mmol) and cuprous iodide (0.096 g, 0.5 mmol) are dissolved in THF (120 mL) and to this is added piperidine (12 mL) and (trimethylsilyl)acetylene (8 mL, 57 mmol). This mixture is degassed and is then stirred for 2 hours. The reaction is then diluted with ether and washed twice with water and brine and the organic layer dried over magnesium sulfate. The solvent is removed in vacuo to give the title compound. MS (EI) 206 (M)+.

reactant | 3-(2-Methoxy-ethoxymethoxy)-phenyliodide | 39 mmol, 12.1 g | COCCOCOC=1C=C(C=CC1)I | C10H13IO3
reactant | piperidine | 12 mL | N1CCCCC1 | C5H11N
reactant | (trimethylsilyl)acetylene | 57 mmol, 8 mL | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 120 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 1.0 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [3-(2-Methoxy-ethoxymethoxy)-phenylethynyl]-trimethyl silane | COCCOCOC=1C=C(C=CC1)C#C[Si](C)(C)C | C15H22O3Si
